US04032527
A mixture of 2-(4-diethylamino)benzoyl)benzoic acid (5.94 g.), N,N,N',N'-tetraethyl-m-phenylenediamine (4.84 g.) and acetic anhydride (3 ml.) was heated at 70° C. Addition of methanol (20 ml.) afforded 3-(2,4-bis(diethylamino)phenyl)-3-(4-(diethylamino)phenyl)phthalide (I: X= Y4 = (CH3CH2)2N, Y2 = Z4 = Z5 = Z6 = Z7 = H) (7.1 g., 135°- 137° C.).

reactant | benzoic acid | 5.94 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | N,N,N',N'-tetraethyl-m-phenylenediamine | 4.84 g | C(C)N(C1=CC(=CC=C1)N(CC)CC)CC | C14H24N2
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 20 ml | CO | CH4O
product | 3-(2,4-bis(diethylamino)phenyl)-3-(4-(diethylamino)phenyl)phthalide | 7.1 g | C(C)N(C1=C(C=CC(=C1)N(CC)CC)C1(OC(=O)C2=CC=CC=C12)C1=CC=C(C=C1)N(CC)CC)CC | C32H41N3O2
